US08106043B2
N-(4-(2-(Ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride:
A solution of N-(4-(2-(ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide (0.142 g, 0.410 mmol) in dry methanol (5 mL) was treated with hydrochloric acid (1M in ether; 2.049 mL, 2.049 mmol) and stirred at room temperature for 1 hour. The reaction was then concentrated to give a yellow solid. 1H-NMR (DMSO-d6) δ 11.22 (brs, 1H) 9.68 (brs, 1H), 9.32 (brs, 2H), 8.69 (brs, 1H), 8.15-8.11 (m, 2H), 7.36 (pseudo t, J=7.2 Hz, 1H), 7.06-6.99 (m, 3H), 3.70-3.60 (overlap with solvent peak, m, 4H), 3.12-3.02 (m, 4H), 3.02-2.93 (m, 2H), 1.23 (t, J=7.2 Hz, 3H).

reactant | N-(4-(2-(ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide | 0.410 mmol, 0.142 g | C(C)NCCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C17H22N4S2
reactant | hydrochloric acid | 2.049 mmol, 1M, 2.049 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | N-(4-(2-(Ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride | Cl.Cl.C(C)NCCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | InChI=1S/C17H22N4S2.2ClH/c1-2-19-7-8-21-9-11-23-16-12-13(5-6-14(16)21)20-17(18)15-4-3-10-22-15;;/h3-6,10,12,19H,2,7-9,11H2,1H3,(H2,18,20);2*1H
